Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
azithromycin / latex / aloe ___
 
___.
 
Chief Complaint:
Restrained driver in ___
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mrs. ___ is a ___ year old female who was a restrained driver 
involved in a ___ ___. Patient was hit on the driver side at 
unknown speed. No airbag deployment, unknown LOC. Patient 
self-extricated and is amnestic to the crash. Patient originally 
taken to OSH where she was found to have a C5 and C6 left 
non-displaced transverse process fractures and vertebral artery 
occlusion, as well as possibly free fluid in the abdomen, for 
which she was transferred to ___ for escalation of care. 
 
Past Medical History:
Psoriasis
Hypothyroid
Hysterectomy
 
Social History:
___
Family History:
History of stroke and vascular disease in father.
 
Physical Exam:
Discharge physical exam:
Gen: NAD, AAOx3, wearing ___ collar.
CV: RRR
Resp: Breaths unlabored, No increase work of breathing, CATB.
Abdomen: Soft, Non-distended, Non-tender, without peritoneal 
signs.
Ext: Warm, no edema seen, non-tender.

 
Pertinent Results:
Imaging:
CT Torso w/contrast ___ read at ___:
1. Mesentery hematoma as described above.  While no definite 
bowel injury in this vicinity is noted, the suspicion for bowel 
injury remains high.
2. Soft tissue stranding over the right anterior hemithorax and 
locules of air in the underlying soft tissue, likely related to 
seat belt injury.  No evidence of underlying fracture, lung 
injury or pneumothorax.
3. Fatty liver disease.

CT Head w/o contrast ___ read at ___:
1. Left transverse process fractures at the level of C5 and C6 
levels as described above.
2. No evidence of acute intracranial process or hemorrhage.

CTA Neck ___ read at ___:
The left vertebral artery becomes completely occluded shortly 
after the origin. Vessel becomes partially opacified with 
contrast at the level of C3. Given the patient's clinical 
history this is concerning for dissection over thrombosis. Left 
transverse process fractures of C5 and C6 are again noted. The 
left vertebral artery is patent without evidence of high-grade 
stenosis or occlusion. The bilateral carotids are patent without 
dissection or stenosis. Mild atherosclerotic calcifications are 
noted at the bilateral carotid bifurcations.

MR ___:
1. Mild prevertebral fluid, centered at C4-5, without disruption 
of the anterior longitudinal ligament.
2. Edema within the posterior musculature and posterior 
ligamentous complex of C3 through C6, without through and 
through tear of the posterior ligamentous complex.
3. Previously seen C5 and C6 transverse process fractures are 
not well visualized on this exam and are better assessed on 
recent CT ___ from ___.
4. Multilevel degenerative change seen throughout the cervical 
___, most severe at C3-4, where there is severe right neural 
foraminal narrowing. Uncovertebral osteophytes cause severe 
bilateral neural foraminal narrowing at C5-6.
5. Redemonstration of thrombosis of the left vertebral artery.  
Findings are more completely assessed on outside CTA head and 
neck as well as recent MRA of the neck.

MRA Neck:
The entirety of the left vertebral artery appears to be 
occluded, extend to the level of C2, intervally worsened 
compared to previously performed CTA of the neck. This is likely 
consistent with dissection given the patient's history although 
thrombosis is not able to be ruled out. The right vertebral 
artery is patent without evidence of stenosis or dissection. The 
bilateral carotid arteries are patent without evidence of 
high-grade stenosis or occlusion.

___ 11:36PM BLOOD WBC-15.4* RBC-3.77* Hgb-12.3 Hct-38.1 
MCV-101* MCH-32.6* MCHC-32.3 RDW-14.4 RDWSD-52.4* Plt ___
___ 11:36PM BLOOD Neuts-89.2* Lymphs-4.9* Monos-4.9* 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-13.72* AbsLymp-0.75* 
AbsMono-0.76 AbsEos-0.01* AbsBaso-0.06
___ 07:47AM BLOOD WBC-9.7 RBC-3.46* Hgb-11.4 Hct-35.0 
MCV-101* MCH-32.9* MCHC-32.6 RDW-14.3 RDWSD-52.8* Plt ___
___ 03:47PM BLOOD WBC-10.9* RBC-3.54* Hgb-11.7 Hct-36.2 
MCV-102* MCH-33.1* MCHC-32.3 RDW-14.6 RDWSD-54.4* Plt ___
___ 05:30PM BLOOD WBC-8.5 RBC-3.08* Hgb-10.4* Hct-31.3* 
MCV-102* MCH-33.8* MCHC-33.2 RDW-14.1 RDWSD-52.2* Plt ___
___ 01:08PM BLOOD WBC-8.5 RBC-3.35* Hgb-10.9* Hct-34.1 
MCV-102* MCH-32.5* MCHC-32.0 RDW-14.4 RDWSD-53.1* Plt ___
___ 11:36PM BLOOD UreaN-12
___ 03:47PM BLOOD Glucose-123* UreaN-14 Creat-0.7 Na-142 
K-3.9 Cl-103 HCO3-24 AnGap-15
___ 05:30PM BLOOD Glucose-98 UreaN-9 Creat-0.6 Na-140 
K-3.4* Cl-103 HCO3-27 AnGap-10
___ 01:08PM BLOOD Glucose-92 UreaN-10 Creat-0.7 Na-137 
K-3.2* Cl-98 HCO3-27 AnGap-12
___ 10:46AM BLOOD Amylase-34
___ 03:47PM BLOOD TotBili-0.5
___ 03:47PM BLOOD Calcium-9.4 Phos-4.1 Mg-1.9
___ 05:30PM BLOOD Calcium-9.2 Phos-2.1* Mg-1.9
___ 01:08PM BLOOD Calcium-9.5 Phos-2.8 Mg-2.0
___ 11:36PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:41PM BLOOD Glucose-162* Lactate-1.6 Creat-0.6 Na-143 
K-3.5 Cl-102 calHCO3-26
___ 12:11AM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:11AM URINE RBC-6* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-2
___ 12:11AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
The patient presented to ___ Emergency Department on ___ 
after being involved in an MVC as the restrained passenger. A 
trauma activation was called and the patient was evaluated by 
the surgical and emergency medicine trauma team in the ED. Her 
imaging from OSH were re-evaluated by ___ radiology and second 
reads were obtained. 

The patient was also evaluated by the Neurology and Neurosurgery 
team. She was found to have transverse process fractures of C5 
and C6, occlusion of the left vertebral artery and a possible 
mesenteric hematoma. She was made NPO and was given IV fluids 
while her abdominal injuries were assessed, further imaging 
(MRI, MRA) were obtained and the consulting teams continued to 
evaluated her.

She was evaluated by Neurusurgery for her vertebral TP fractures 
with accompanying edema (see MRI report under Imaging). The 
Neuro surgical team recommended non-operative management, the 
patient's neck remained immobilized in a ___ C-Collar 
throughout her hospitalization, and she was instructed to keep 
wear it, outside of showering, until she will follow up with 
neurosurgery as outpatient.

The Neurology team evaluated the patient for her vertebral 
artery occlusion. After a dissection has been ruled out, she was 
put back on her home dose of 81mg daily aspirin and will follow 
up with the neurology stroke team as outpatient.

Abdominal visceral injury was evaluated using serial abdominal 
exams, imaging and laboratory tests. With normal and stable 
blood counts, normal amylase and lipase and benign abdominal 
exams, the patient was trialed on a regular diet, which she 
tolerated well. She was put back on her home medication (not 
including HCTZ) and faired well during her admission.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO.  On ___, her 
diet was advanced to a Regular diet, which was well tolerated. 
Patient's intake and output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. Prior to discharge, she was evaluated by the 
physical therapy team who agreed with a discharge home, and 
recommended continued outpatient ___ after neurosurgery clear her 
for C-Collar removal. The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left C5-C6 Transverse process fracture
Left vertebral artery occlusion
Mesentery Hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
following a motor vehicle collision. You were evaluated in the 
___ ED and were admitted for observation. The Neurology and 
Neurosurgery teams were involved in your care, as well as 
Physical Therapy. You were found to have transverse process 
fractures of the C5 and C6 vertebrates. You were also observed 
for a possible injury to your abdominal organs. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please follow up with the Neurosurgery and Neurology team as 
specified below.

Continue to wear your C-Collar at all times. You may remove it 
while taking a shower. Continue to ambulate and stay mobile.

You may gain benefit from further physical therapy once during 
your follow up with Neurosurgery and should re-evaluate it once 
you are cleared to remove your ___ Cervical Collar.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___